US06297259B1
N-Methyl-N-(4-(4-(1-(imidazol-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-phenylbutyl)benzamide
Prepare by the method of Example 21.1 using N-methyl-N-(4-(4-(1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-phenylbutyl)benzamide and 1-benzyl-imidazol-2-ylmethylchloride hydrochloride to give the title compound.

reactant | N-methyl-N-(4-(4-(1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-phenylbutyl)benzamide | CN(C(C1=CC=CC=C1)=O)CC(CCN1CCC(CC1)C(=O)C1=NC2=C(N1)C=CC=C2)C2=CC=CC=C2 | C31H34N4O2
reactant | 1-benzyl-imidazol-2-ylmethylchloride hydrochloride | Cl.C(C1=CC=CC=C1)N1C(=NC=C1)CCl
product | N-Methyl-N-(4-(4-(1-(imidazol-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-phenylbutyl)benzamide | CN(C(C1=CC=CC=C1)=O)CC(CCN1CCC(CC1)C(=O)C1=NC2=C(N1CC=1NC=CN1)C=CC=C2)C2=CC=CC=C2 | C35H38N6O2
